US07906516B2
43.4 g (133 mmol) of caesium carbonate are added to a solution of 26.6 g (88.8 mmol) of ethyl {4-[2-(2-chloroethoxy)acetylamino]phenyl}acetate in 100 ml of acetonitrile, and the mixture is stirred at room temperature for 18 hours. The reaction mixture is filtered, and the filtrate is evaporated, giving ethyl [4-(3-oxomorpholin-4-yl)phenyl]acetate as a yellowish oil; ESI 264.

reactant | caesium carbonate | 133 mmol, 43.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl {4-[2-(2-chloroethoxy)acetylamino]phenyl}acetate | 88.8 mmol, 26.6 g | ClCCOCC(=O)NC1=CC=C(C=C1)CC(=O)OCC | C14H18ClNO4
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | ethyl [4-(3-oxomorpholin-4-yl)phenyl]acetate | O=C1N(CCOC1)C1=CC=C(C=C1)CC(=O)OCC | C14H17NO4
